US05212187
N-[6-[N-[3-(4-chlorophenyl)-3-(2-pyridyl)propyl]-N-methylamino]hexyl]-N'-[2-[[(2-guanidino-4-thiazolyl)methyl]thio]ethyl]urea
Preparation is effected analogously to Example 63, using 0.9 g (2.5 mmol) of N-[3-(4-chlorophenyl)-3-(2-pyridyl)propyl]-N-methyl-1,6-hexanediamine, an equimolar amount of 1,1'-carbonyldiimidazole and 0.6 g (2.6 mmol) of 2-[[(2-guanidino-4-thiazolyl)methyl]thio]ethaneamine as starting materials. Working up by chromatography (eluant: methylene chloride) analogously to Example 63 yields the purified title compound in the form of an oil; MS (+FAB method): m/z (rel. int.[%])=617 ([M+H]+, 6), 230 (100), 155 (28); IR (KBr): 1641 cm-1 (C=O).

reactant | N-[3-(4-chlorophenyl)-3-(2-pyridyl)propyl]-N-methyl-1,6-hexanediamine | 2.5 mmol, 0.9 g | ClC1=CC=C(C=C1)C(CCN(CCCCCCN)C)C1=NC=CC=C1 | C21H30ClN3
reactant | 1,1'-carbonyldiimidazole | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 2-[[(2-guanidino-4-thiazolyl)methyl]thio]ethaneamine | 2.6 mmol, 0.6 g | N(C(=N)N)C=1SC=C(N1)CSCCN | C7H13N5S2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | N-[6-[N-[3-(4-chlorophenyl)-3-(2-pyridyl)propyl]-N-methylamino]hexyl]-N'-[2-[[(2-guanidino-4-thiazolyl)methyl]thio]ethyl]urea | ClC1=CC=C(C=C1)C(CCN(C)CCCCCCNC(=O)NCCSCC=1N=C(SC1)NC(=N)N)C1=NC=CC=C1 | C29H41ClN8OS2
